US05118441
Step i) Production of 2-dodecanoylthiophene
In a 5 liter-five-necked flask, 112.5 g (1.34 mol) of thiophene, 300 g (1.37 mol) of n-dodecanoyl chloride and 2.25 liter of dry benzene were placed and cooled below 0° C. To the mixture under stirring, 148.5 g (5.70×10-1 mol) of SnCl4 was added dropwise in 1 hour below 0° C. The mixture was stirred for 30 min. below 0° C., followed by stirring for 4 hours while being gradually restored to room temperature. After the reaction, 2 liter of 10% HCl was added to the reaction mixture, followed by stirring for 10 min. The separated organic layer was successively washed three times with 500 ml each of 10% HCl, water, 5% Na2CO3 and water, followed by drying with CaCl2 and distilling-off of the solvent to obtain 315 g of a crude product. The crude product was subjected to reduced-pressure distillation under an atmosphere of nitrogen to obtain 270 g of a pure product (yield: 75.7%). b.p.: 146° C./0.65 mmHg

reactant | thiophene | 1.34 mol, 112.5 g | S1C=CC=C1 | C4H4S
reactant | n-dodecanoyl chloride | 1.37 mol, 300 g | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
reactant | SnCl4 | 5.70×10-1 mol, 148.5 g | Cl[Sn](Cl)(Cl)Cl
reactant | HCl | 2 liter | Cl | ClH
solvent | benzene | 2.25 liter | C1=CC=CC=C1 | C6H6
product | 2-dodecanoylthiophene | 270 g, yield: 75.7% | C(CCCCCCCCCCC)(=O)C=1SC=CC1 | C16H26OS
